US08865698B2
Step B: Preparation of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitropyrazolo[1,5-a]pyrimidine:
(R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine (3.3 g, 10.99 mmol), was dissolved in 25 mL TFA at ambient temperature to give a clear yellowish solution, then nitric acid (3.434 mL, 54.94 mmol) was added drop-wise to the solution with rapid stirring. After addition, the reaction mixture was stirred for another 15 minutes at ambient temperature, then quenched by pouring onto ice with rapid stirring. The resulting yellowish suspension was filtered, rinsed with water, then the solid was triturated with MeOH (50 mL, with brief sonication), and vacuum-filtered, giving the pure product as a fine off-white powder (2.2 g, 58% yield).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine | 10.99 mmol, 3.3 g | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2 | C16H14F2N4
reactant | nitric acid | 54.94 mmol, 3.434 mL | [N+](=O)(O)[O-] | HNO3
solvent | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitropyrazolo[1,5-a]pyrimidine | 2.2 g, 58% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2[N+](=O)[O-] | C16H13F2N5O2
